US04219550
(+)-cis-1,2,6b,7,8,9,10,10a-Octahydropyrido[3', 4': 4,5]pyrrolo[1,2,3,-de][1,4]benzoxazine
Powdered sodium cyanoborohydride (25 g) is added, in small portions, to a well-stirred and cooled (5°) solution of 1,2,7,8,9,10-hexahydropyrido[3', 4': 4,5]pyrrolo[1,2,3-de][1,4]benzoxazine (20 g) in trifluoroacetic acid (250 ml) at such a rate that excessive frothing is avoided. After the addition is complete, the mixture is stirred at room temperature for 2 hours, treated with 6N hydrochloric acid (150 ml), and refluxed for 30 minutes. It is then cooled and basified with 25% sodium hydroxide and extracted thrice with chloroform. The combined chloroform extracts are washed thoroughly with water, dried over magnesium sulfate, and stripped of the solvent under reduced pressure to furnish a crystalline solid which is recrystallized from hexane to yield the title compound, m.p. 112°-113°.

reactant | sodium cyanoborohydride | 25 g | C(#N)[BH3-].[Na+]
reactant | 1,2,7,8,9,10-hexahydropyrido[3', 4': 4,5]pyrrolo[1,2,3-de][1,4]benzoxazine | 20 g | C1COC2=C3N1C1=C(C3=CC=C2)CNCC1 | C13H14N2O
reactant | hydrochloric acid | 6N, 150 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | trifluoroacetic acid | 250 ml | FC(C(=O)O)(F)F | C2HF3O2
product | [1,4]benzoxazine | O1CC=NC2=C1C=CC=C2 | C8H7NO
